US08809339B2
N1-(2-((5-(3,4-dimethylphenyl)pyrazin-2-yl)carbamoyl)-4-(piperidin-1-yl)-phenyl)-N3-(2-(2-hydroxyethoxy)ethyl)isophthalamide
Into a 50-mL round bottom flask, was placed a solution of 3-((2-(2-hydroxyethoxy)ethyl)carbamoyl)benzoic acid (189.3 mg, 0.7.5 mmol, 3.00 equiv) in N,N-dimethylformamide (5 mL), HATU (331.2 mg, 0.87 mmol, 3.50 equiv), N,N-diisopropylethylamine (160.6 mg, 1.24 mmol, 5.00 equiv), and 2-amino-N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-5-(piperidin-1-yl)benzamide (100 mg, 0.25 mmol, 1.00 equiv). The resulting solution was stirred overnight at 25° C. in an oil bath. The reaction was then quenched with 50 mL of water. The resulting solution was extracted with 3×30 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×50 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. The crude product (120 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 44.8 mg (28%) of a light yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.36 (s, 1H), 11.06 (s, 1H), 9.38 (d, J=1.5 Hz, 1H), 9.03 (d, J=1.5 Hz, 1H), 8.74˜8.66 (m, 1H), 8.39 (s, 1H), 8.10˜8.01 (m, 3H), 7.92 (s, 1H), 7.86 (d, J=7.8 Hz, 1H), 7.66˜7.51 (m, 2H), 7.37 (s, 1H), 7.29 (d, J=7.8 Hz, 1H), 3.56˜3.34 (m, 13H), 2.32˜2.28 (m, 6H), 1.72˜1.61 (m, 6H). MS (ES, m/z): 637 [M+H]+.

reactant | 3-((2-(2-hydroxyethoxy)ethyl)carbamoyl)benzoic acid | 189.3 mg, 3.00 equiv | OCCOCCNC(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO5
reactant | HATU | 0.87 mmol, 331.2 mg, 3.50 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.24 mmol, 160.6 mg, 5.00 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-amino-N-(5-(3,4-dimethylphenyl)pyrazin-2-yl)-5-(piperidin-1-yl)benzamide | 0.25 mmol, 100 mg, 1.00 equiv | NC1=C(C(=O)NC2=NC=C(N=C2)C2=CC(=C(C=C2)C)C)C=C(C=C1)N1CCCCC1 | C24H27N5O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N1-(2-((5-(3,4-dimethylphenyl)pyrazin-2-yl)carbamoyl)-4-(piperidin-1-yl)-phenyl)-N3-(2-(2-hydroxyethoxy)ethyl)isophthalamide | 44.8 mg, 28% | CC=1C=C(C=CC1C)C=1N=CC(=NC1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(C1=CC(C(=O)NCCOCCO)=CC=C1)=O | C36H40N6O5
